Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M w/ hx CLL, originally from ___, on a cruise ship 
being admitted with SOB. Of note, he has also had subacute 
memory changes.  Patient poor historian. Recent flight to ___ 
on ___, 5 hrs.

Pt states he has "memory problems" for "some months". Very poor 
historian. States he was recently on a trip from ___. Has 
had some dyspnea on exertion for months. Not sure what brought 
him to see a physician in ___. States he has no family but 
has a girlfriend.

___ worse shortness of breath than his baseline. Denies any 
fever, chills, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, palpitations, diaphoresis. Denies dysuria. Denies 
numbness, weakness, difficulty with bowel or bladder, gait 
difficulty. 

Of note, there is a report of OSH CTA chest and CXR without 
evidence of PE or parenchymal infiltrate. 

VS in ED: 98.2 85 178/94 24 95% Nasal Cannula 

Exam notable for: 
-Diminished breath sounds bilaterally in lower lung fields, no 
rales
-RRR, no murmur
-A&Ox1, answers questions appropriately

Studies : 
-CT head - possible hydrocephalus, no way to assess acuity of 
this.  -Bedside echo without pericardial effusion.
-CXR with hyperinflated lungs, no pleural effusion/PNA.

Labs: WC 13.6 (N 28%), Hb 12.1, UA bland. BMP nl.

Seen by neurosurgery- no acute intervention needed.
Seen by neurology who will staff later today.

Patient given duonebs and azithromycin. Patient weaned off O2, 
95% while ambulating on room air. 

Mental status improved while in ED to A&O x 2.5- name, hospital 
and entire date, but can't say why in hospital (relatively 
improved). 

On transfer to floor, patient knows he is in hospital, unsure of 
why (doesn't remember respiratory episode).  He and his partner 
admit to 6 mo hx of memory loss- "little things," patient has 
never gotten lost, no problems with IADLS.  No cold sensitivity. 
 No sick contacts.  No N/V/D.  No SOB/orthopnea/PND.  No changes 
in gait per patient. 

 
Past Medical History:
-CLL
-HTN
-HLD
-CAD with 2 stents in ___
 
Social History:
___
Family History:
Mother with dementia in ___, father with CAD in ___
 
Physical Exam:
ADMISSION
 Vitals- T 98.5 HR 73  BP 150/70  RR 18  SaO2 94 on RA
 General:  WDWN, NAD A&Ox 2.5 (self, not to place, time)
 HEENT:  supple, no JVD
 CV:  RRR no MRG
 Lungs:  bl in mid and upper lungs high pitched exp wheezing
 Abdomen:  NTND, +BS
 GU:  no foley
 Ext:  wwp, 2+ DP and ___ pulses bl
 Neuro:  CNII-XII intact, gait nl, ___ upper and lower ext 
strength, brisk patellar and bicep reflexes, nl sensation bl 
 Skin:  no lesions 

DISCHARGE
 
Pertinent Results:
ADMISSION LABS
___ 03:00AM BLOOD WBC-13.6* RBC-3.77* Hgb-12.1* Hct-37.9* 
MCV-101* MCH-32.1* MCHC-31.9* RDW-13.8 RDWSD-50.4* Plt ___
___ 03:00AM BLOOD Neuts-28* Bands-0 Lymphs-68* Monos-1* 
Eos-2 Baso-0 Atyps-1* ___ Myelos-0 AbsNeut-3.81 
AbsLymp-9.38* AbsMono-0.14* AbsEos-0.27 AbsBaso-0.00*
___ 03:00AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-1+ Microcy-NORMAL Polychr-NORMAL
___ 03:00AM BLOOD Plt Smr-LOW Plt ___
___ 03:00AM BLOOD ___ PTT-27.4 ___
___ 03:00AM BLOOD Glucose-129* UreaN-11 Creat-0.9 Na-138 
K-4.2 Cl-103 HCO3-24 AnGap-15
___ 03:00AM BLOOD VitB12-406
___ 03:00AM BLOOD TSH-1.7
___ 03:00AM BLOOD ASA-NEG Bnzodzp-NEG Barbitr-NEG 
Tricycl-NEG

IMAGING
___ 
EXAMINATION:  CT HEAD W/O CONTRAST 
  
INDICATION:  ___ with confusion, reported hx of CLL.  Assess for 
acute 
intracranial process 
  
TECHNIQUE:  Contiguous axial images of the brain were obtained 
without 
contrast. 
  
DOSE:  Acquisition sequence: 
   1) CT Localizer Radiograph 
   2) CT Localizer Radiograph 
   3) Sequenced Acquisition 16.0 s, 17.0 cm; CTDIvol = 47.1 mGy 
(Head) DLP = 
802.7 mGy-cm. 
 Total DLP (Head) = 803 mGy-cm. 
  
COMPARISON:  None. 
  
FINDINGS:  
There is prominence of the ventricles diffusely, borderline 
greater than would be expected for the patient's age related 
global cerebral involutional changes.  There are periventricular 
and subcortical white matter hypodensities, which are 
nonspecific and may represent sequela of chronic 
microangiopathy.  In particular, there is a more confluent right 
parietal white matter hypo dense focus measuring approximately 
2.9 x 1.7 cm (series 2, image 22), most likely secondary to 
small vessel ischemic changes.  However, if there is clinical 
concern for infarct, MRI with would be more sensitive.  The 
basilar cisterns are patent. 
  
There is no evidence of infarction, hemorrhage, edema, or mass. 
There is no evidence of fracture.  Mild mucosal thickening of 
the ethmoidal air cells with air-fluid level in the left 
maxillary sinus is noted.  The additional visualized portion of 
the paranasal sinuses, mastoid air cells, and middle ear 
cavities are clear.  The visualized portion of the orbits are 
unremarkable. 
  
IMPRESSION: 
   
1. Periventricular subcortical white matter hypodensities, most 
prominent 
along the right parietal centrum semiovale, which are 
nonspecific, but likely sequela of chronic microangiopathy in a 
patient of this age.  If there is high clinical concern for 
infarct, MRI would be more sensitive if there are no 
contraindications. 
2. There are prominent ventricles, borderline greater than would 
be expected for the patent chains age related global cerebral 
involutional volume loss.  No significant in degree of 
transependymal flow to suggest acute process. Clinical 
correlation is recommended. 
3. Air-fluid level in the left maxillary sinus may represent 
acute sinusitis.  Clinical correlation is recommended. 

  
___ CXR
FINDINGS:  
The lungs are again noted to be hyperinflated.  No pleural 
effusion or 
pneumothorax.  Heart size, mediastinal contour, and hila are 
unremarkable. 
  
Limited assessment of the osseous structures are notable for 
moderate 
degenerative changes with large anterior osteophytes. 
  
IMPRESSION:   
1.  Hyperinflated lungs can be seen with emphysema and chronic 
obstructive 
airways. 
2.  No pneumonia or pleural effusion. 
  

OTHER LABS

___ 03:00AM BLOOD VitB12-406
___ 03:00AM BLOOD TSH-1.7
___ 03:00AM BLOOD ASA-NEG Bnzodzp-NEG Barbitr-NEG 
Tricycl-NEG
___ 02:35AM URINE Color-Yellow Appear-Clear Sp ___
___ 02:35AM URINE Blood-MOD Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 02:35AM URINE RBC-8* WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 02:35AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

DISCHARGE LABS
___ 07:00AM BLOOD WBC-13.0* RBC-3.67* Hgb-11.7* Hct-36.5* 
MCV-100* MCH-31.9 MCHC-32.1 RDW-13.7 RDWSD-50.1* Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-99 UreaN-13 Creat-1.0 Na-140 
K-4.3 Cl-100 HCO3-30 AnGap-14
___ 07:00AM BLOOD Calcium-9.4 Phos-3.5 Mg-1.___ yo M w/ hx CLL, originally from ___, on a cruise ship 
being admitted with SOB, noted to have acute/subacute memory 
loss and found to have hydrocephalus on CT.
 
#Shortness of breath- CXR findings w/ hyperinflation suggestive 
of COPD or reactive airway disease.  Patient treated with 
azithromycin for bronchitis and albuterol and ipratropium nebs 
with good effect.  Patient should have PFTs done as an 
outpatient. 

#CONFUSION/AMS: Patient with ventriculomegaly on CT and history 
of urinary incontinence suggestive of normal pressure 
hydrocephalus.  Patient seen by neurosurgery who felt that no 
immediate intervention needed to be done.  TSH, B12 normal.  RPR 
pending on discharge.  Urine and serum toxicology were negative. 
 

#CLL- diagnosed in past year, no current treatment. 

#HTN- continued on ACE, hydrochlorothiazide 

#HLD- continued on statin 

#Microscopic hematuria- noted on UA without evidence of 
infection. Patient was informed of this finding and understands 
he will need repeat UA at outpatient follow up. 

Transitional Issues
-Memory changes should be worked up by PCP in ___. 
-Pt may have new diagnosis of COPD and PFTs should be checked in 
___
-medication changes: albuterol, azithromycin (___)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
2. Simvastatin 40 mg PO QPM 
3. Aspirin 81 mg PO DAILY 
4. Viagra (sildenafil) 100 mg oral as directed 
5. Omeprazole 20 mg PO DAILY 
6. FoLIC Acid 1 mg PO DAILY 
7. Cyanocobalamin 50 mcg PO DAILY 
8. Lotensin (benazepril) 20 mg oral DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Simvastatin 40 mg PO QPM 
5. Cyanocobalamin 50 mcg PO DAILY 
6. FoLIC Acid 1 mg PO DAILY 
7. Lotensin (benazepril) 20 mg ORAL DAILY 
8. Viagra (sildenafil) 100 mg oral as directed 
9. Azithromycin 250 mg PO Q24H 
10. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Chronic obstructive pulmonary disease
Secondary: Hydrocephalus 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted with shortness of breath and memory loss. You 
were given several inhaled medications to improve your 
breathing.  You also had imaging of your head that showed 
increased fluid in your brain.  Neurology saw you and ****
It was a pleasure caring for you!
-Your ___ Team
 
Followup Instructions:
___